US08686005B2
[2-(5-Amino-6-nitro-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-ethyl]-methyl-carbamic acid tert-butyl ester:
A mixture of 5-amino-6-nitro-isoindole-1,3-dione (2.07 g, 10 mmol), (2-Amino-ethyl)-methyl-carbamic acid tert-butyl ester (3.485 g, 20 mmol), imidazole (1.36 g, 20 mmol) in dioxane (30 mL) was sealed in a ChemGlass heavy wall pressure flask. After it was heated at 140° C. for 38 h, the reaction mixture was evaporated to dryness at 95° C. (the bath temperature) under reduced pressure. The chromatography of the residue with CH2Cl2/MeOH/28% aqueous NH4OH (500:10:1) afforded the title compound (3.39 g, 93%). 1H NMR (CDCl3) δ 1.08 (s, 9H), 2.78 (s, 3H), 3.42 (m, 2H), 3.68 (m, 2H), 7.48 (s, 1H), 8.34 (s, 1H), 8.42 (br s, 2H, NH).

reactant | 5-amino-6-nitro-isoindole-1,3-dione | 10 mmol, 2.07 g | NC=1C=C2C(NC(C2=CC1[N+](=O)[O-])=O)=O | C8H5N3O4
reactant | (2-Amino-ethyl)-methyl-carbamic acid tert-butyl ester | 20 mmol, 3.485 g | C(C)(C)(C)OC(N(C)CCN)=O | C8H18N2O2
reactant | imidazole | 20 mmol, 1.36 g | N1C=NC=C1 | C3H4N2
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | [2-(5-Amino-6-nitro-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-ethyl]-methyl-carbamic acid tert-butyl ester | 3.39 g, 93% | C(C)(C)(C)OC(N(C)CCN1C(C2=CC(=C(C=C2C1=O)N)[N+](=O)[O-])=O)=O | C16H20N4O6
